US06075033
Preparation of (R)-3-(1-naphthyl) Glutaric Acid Monomethyl Ester (IV)
Formula C16H16O4. Yield 62%; TLC (isoamyl alcohol-acetone-H2O 5:2:2) Rf. 0.65 (N.B.: 3-(1-naphthyl) glutaric acid has Rf. 0.52 in the same eluent).

reactant | 3-(1-naphthyl) glutaric acid | C1(=CC=CC2=CC=CC=C12)C(CC(=O)O)CC(=O)O | C15H14O4
reactant | isoamyl alcohol acetone H2O | C(CC(C)C)O.CC(=O)C.O
product | (R)-3-(1-naphthyl) Glutaric Acid Monomethyl Ester | COC(C[C@@H](CC(=O)O)C1=CC=CC2=CC=CC=C12)=O | C16H16O4
